2104-10-31 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Hemoptysis
   24 Hour Events:
   Patient transferred to the CCU service for further management of CHF.
   Patient has electively chosen to have hospice care and be discharged
   today.  Patient was started on Lasix gtt overnight
   Allergies:
   Xanax (Oral) (Alprazolam)
   Drowsiness/Fati
   Ativan (Injection) (Lorazepam)
   Unknown; Confus
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Metoprolol - [**2104-10-30**] 02:00 PM
   Morphine Sulfate - [**2104-10-30**] 02:25 PM
   Furosemide (Lasix) - [**2104-10-30**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-10-31**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 69 (60 - 73) bpm
   BP: 135/65(72) {135/46(72) - 182/65(89)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: A Paced
             Total In:
                                                                    604 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                     64 mL
                                                                     68 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  2,345 mL
                                                                    930 mL
   Urine:
                                                                  2,345 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,741 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   269 K/uL
   12.5 g/dL
   145 mg/dL
   2.9 mg/dL
   20 mEq/L
   4.4 mEq/L
   56 mg/dL
   109 mEq/L
   144 mEq/L
   37
   11.3 K/uL
        [image002.jpg]
                            [**2104-10-28**]  12:00 PM
                            [**2104-10-28**]  06:00 PM
                            [**2104-10-28**]  09:44 PM
                            [**2104-10-29**]  02:59 AM
                            [**2104-10-29**]  05:46 AM
                            [**2104-10-29**]  12:06 PM
                            [**2104-10-29**]  09:41 PM
                            [**2104-10-30**]  03:19 AM
                            [**2104-10-30**]  04:25 AM
                            [**2104-10-30**]  06:09 AM
   WBC
   7.1
   9.2
   11.3
   Hct
   30.2
   32.2
   35.1
   38.5
   37
   Plt
   143
   190
   212
   269
   Cr
   2.3
   2.5
   2.8
   2.9
   TCO2
   24
   23
   24
   Glucose
   102
   107
   319
   100
   115
   127
   145
   Other labs: PT / PTT / INR:12.8/34.3/1.1, Lactic Acid:1.3 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Assesment: [**Age over 90 **] y/o man w/MMM admitted with hemoptysis, now transferred
   to CCU for further care of heart failure and hypertension prior to
   discharge to home with hospice in AM.
   .
   # CHF: lasix gtt
   - goal to get out fluid at u/o 120-200/hour. Plan to diuresis at this
   rate overnight as vital signs tolerate
   .
   # HTN: nitro gtt
   -plan to titrate as diuresis allows. Goal BP 120-150 systolic.
   -Can re-start home meds in AM to allow for BP control and wean nitro
   gtt.
   -will be discharged on anti-hypertensives
   .
   # Hemoptysis: no further work-up. Morphine SL prn for dyspnea. Also has
   E-coli in lungs, will treat with oral antibiotics.
   .
   # DIsp: home with hospice. Appreciate geriatrics input will need the
   following prior to d/c:
   -d/c summary
   -hospice orders:
   -morphine SL
   -hyosciamine SL
   -bowel reg
   -?scopolamine patch
   -holding coumadin for A-fib
   .
   # Code: DNR/DNI

2104-10-31 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Hemoptysis
   24 Hour Events:
   Patient transferred to the CCU service for further management of CHF.
   Patient has electively chosen to have hospice care and be discharged
   today.  Patient was started on Lasix gtt overnight
   Allergies:
   Xanax (Oral) (Alprazolam)
   Drowsiness/Fati
   Ativan (Injection) (Lorazepam)
   Unknown; Confus
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Metoprolol - [**2104-10-30**] 02:00 PM
   Morphine Sulfate - [**2104-10-30**] 02:25 PM
   Furosemide (Lasix) - [**2104-10-30**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-10-31**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 69 (60 - 73) bpm
   BP: 135/65(72) {135/46(72) - 182/65(89)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: A Paced
             Total In:
                                                                    604 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                     64 mL
                                                                     68 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  2,345 mL
                                                                    930 mL
   Urine:
                                                                  2,345 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,741 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   Gen:  Elderly gentleman, resting in bed.  Able to awake without
   difficulty.
   Rest of exam deferred, per patient request
   Labs / Radiology
   269 K/uL
   12.5 g/dL
   145 mg/dL
   2.9 mg/dL
   20 mEq/L
   4.4 mEq/L
   56 mg/dL
   109 mEq/L
   144 mEq/L
   37
   11.3 K/uL
        [image002.jpg]
                            [**2104-10-28**]  12:00 PM
                            [**2104-10-28**]  06:00 PM
                            [**2104-10-28**]  09:44 PM
                            [**2104-10-29**]  02:59 AM
                            [**2104-10-29**]  05:46 AM
                            [**2104-10-29**]  12:06 PM
                            [**2104-10-29**]  09:41 PM
                            [**2104-10-30**]  03:19 AM
                            [**2104-10-30**]  04:25 AM
                            [**2104-10-30**]  06:09 AM
   WBC
   7.1
   9.2
   11.3
   Hct
   30.2
   32.2
   35.1
   38.5
   37
   Plt
   143
   190
   212
   269
   Cr
   2.3
   2.5
   2.8
   2.9
   TCO2
   24
   23
   24
   Glucose
   102
   107
   319
   100
   115
   127
   145
   Other labs: PT / PTT / INR:12.8/34.3/1.1, Lactic Acid:1.3 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Assesment: [**Age over 90 **] y/o man w/MMM admitted with hemoptysis, now transferred
   to CCU for further care of heart failure and hypertension prior to
   discharge to home with hospice in AM.
   .
   # CHF: lasix gtt
   - goal to get out fluid at u/o 120-200/hour. Plan to diuresis at this
   rate overnight as vital signs tolerate
   .
   # HTN: nitro gtt
   -plan to titrate as diuresis allows. Goal BP 120-150 systolic.
   -Can re-start home meds in AM to allow for BP control and wean nitro
   gtt.
   -will be discharged on anti-hypertensives
   .
   # Hemoptysis:   No further work-up per patient
s request.
   - Continue Morphine SL prn for dyspnea.
   - Continue Levaquin for E-coli in lungs, will treat with oral
   antibiotics.
   .
   # DIsp: home with hospice. Appreciate geriatrics input will need the
   following prior to d/c:
   -d/c summary
   -hospice orders:
   -morphine SL
   -hyosciamine SL
   -bowel reg
   -?scopolamine patch
   -holding coumadin for A-fib
   .
   # Code: DNR/DNI

2104-10-31 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Hemoptysis
   24 Hour Events:
   Patient transferred to the CCU service for further management of CHF.
   Patient has electively chosen to have hospice care and be discharged
   today.  Patient was started on Lasix gtt overnight and had BP
   controlled on Nitro gtt.  Pt refusing oral medications.
   Allergies:
   Xanax (Oral) (Alprazolam)
   Drowsiness/Fati
   Ativan (Injection) (Lorazepam)
   Unknown; Confus
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 8 mg/hour
   Other medications:
   Albuterol MDI
   Amiodarone 200mg daily
   Amlodipine 5mg daily
   Atorvastain 10mg
   Bisacodyl 10mg po
   Toprol XL 100mg daily
   Morphine sulfate 5-10mg po q1-2hrs
   Pantoprazole 40mg q24
   Ranitidine 150mg elixir daily
   Sucralfate 1gm QID
   Ursodiol 300mg [**Hospital1 **]
   Levoflox 750mg q48hrs
   Hydral 10mg IV q8hrs prn
   Senna prn
   Calcium Gluconate IV Sliding scale
   Potassium chloride IV SS
   Magnesium IV SS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-10-31**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 69 (60 - 73) bpm
   BP: 135/65(72) {135/46(72) - 182/65(89)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: A Paced
             Total In:
                                                                    604 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                     64 mL
                                                                     68 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  2,345 mL
                                                                    930 mL
   Urine:
                                                                  2,345 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,741 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   Gen:  Elderly gentleman, resting in bed.  Able to awake without
   difficulty.
   Rest of exam deferred, per patient request
   Labs / Radiology
   269 K/uL
   12.5 g/dL
   145 mg/dL
   2.9 mg/dL
   20 mEq/L
   4.4 mEq/L
   56 mg/dL
   109 mEq/L
   144 mEq/L
   37
   11.3 K/uL
        [image002.jpg]
                            [**2104-10-28**]  12:00 PM
                            [**2104-10-28**]  06:00 PM
                            [**2104-10-28**]  09:44 PM
                            [**2104-10-29**]  02:59 AM
                            [**2104-10-29**]  05:46 AM
                            [**2104-10-29**]  12:06 PM
                            [**2104-10-29**]  09:41 PM
                            [**2104-10-30**]  03:19 AM
                            [**2104-10-30**]  04:25 AM
                            [**2104-10-30**]  06:09 AM
   WBC
   7.1
   9.2
   11.3
   Hct
   30.2
   32.2
   35.1
   38.5
   37
   Plt
   143
   190
   212
   269
   Cr
   2.3
   2.5
   2.8
   2.9
   TCO2
   24
   23
   24
   Glucose
   102
   107
   319
   100
   115
   127
   145
   Other labs: PT / PTT / INR:12.8/34.3/1.1, Lactic Acid:1.3 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Assesment: [**Age over 90 **] y/o man w/MMM admitted with hemoptysis, now transferred
   to CCU for further care of heart failure and hypertension prior to
   discharge to home with hospice in AM.
   .
   # CHF:  Patient volume overloaded and likely contributing to poor
   respiratory status.  Patient started on lasix gtt yesterday.  Patient
   had good UOP at 120-200 cc/hr.
   - Continue lastix gtt.  Switch to po on discharge.
   # HTN: Goal SBP 120-160.  Controlled on nitro gtt.  Pt intermittently
   refusing oral medications.
   -Will restart home meds this AM and wean nitro gtt.
   -will be discharged on anti-hypertensives
   .
   # Hemoptysis:   No further work-up per patient
s request.
   - Continue Morphine SL prn for dyspnea.
   - Continue Levaquin for E-coli pneumonia.
   .
   # DIsp: home with hospice. Appreciate geriatrics input will need the
   following prior to d/c:
   -d/c summary
   -hospice orders:
   -morphine SL
   -hyosciamine SL
   -bowel reg
   -?scopolamine patch
   -holding coumadin for A-fib
   .
   # Code: DNR/DNI

2104-10-31 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Hemoptysis
   24 Hour Events:
   Patient transferred to the CCU service for further management of CHF.
   Patient has electively chosen to have hospice care and be discharged
   today.  Patient was started on Lasix gtt overnight and had BP
   controlled on Nitro gtt.  Pt refusing oral medications.
   Allergies:
   Xanax (Oral) (Alprazolam)
   Drowsiness/Fati
   Ativan (Injection) (Lorazepam)
   Unknown; Confus
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 8 mg/hour
   Other medications:
   Albuterol MDI
   Amiodarone 200mg daily
   Amlodipine 5mg daily
   Atorvastain 10mg
   Bisacodyl 10mg po
   Toprol XL 100mg daily
   Morphine sulfate 5-10mg po q1-2hrs
   Pantoprazole 40mg q24
   Ranitidine 150mg elixir daily
   Sucralfate 1gm QID
   Ursodiol 300mg [**Hospital1 **]
   Levoflox 750mg q48hrs
   Hydral 10mg IV q8hrs prn
   Senna prn
   Calcium Gluconate IV Sliding scale
   Potassium chloride IV SS
   Magnesium IV SS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-10-31**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 69 (60 - 73) bpm
   BP: 135/65(72) {135/46(72) - 182/65(89)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: A Paced
             Total In:
                                                                    604 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                     64 mL
                                                                     68 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  2,345 mL
                                                                    930 mL
   Urine:
                                                                  2,345 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,741 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   Gen:  Elderly gentleman, resting in bed.  Able to awake without
   difficulty.
   Rest of exam deferred, per patient request
   Labs / Radiology
   269 K/uL
   12.5 g/dL
   145 mg/dL
   2.9 mg/dL
   20 mEq/L
   4.4 mEq/L
   56 mg/dL
   109 mEq/L
   144 mEq/L
   37
   11.3 K/uL
        [image002.jpg]
                            [**2104-10-28**]  12:00 PM
                            [**2104-10-28**]  06:00 PM
                            [**2104-10-28**]  09:44 PM
                            [**2104-10-29**]  02:59 AM
                            [**2104-10-29**]  05:46 AM
                            [**2104-10-29**]  12:06 PM
                            [**2104-10-29**]  09:41 PM
                            [**2104-10-30**]  03:19 AM
                            [**2104-10-30**]  04:25 AM
                            [**2104-10-30**]  06:09 AM
   WBC
   7.1
   9.2
   11.3
   Hct
   30.2
   32.2
   35.1
   38.5
   37
   Plt
   143
   190
   212
   269
   Cr
   2.3
   2.5
   2.8
   2.9
   TCO2
   24
   23
   24
   Glucose
   102
   107
   319
   100
   115
   127
   145
   Other labs: PT / PTT / INR:12.8/34.3/1.1, Lactic Acid:1.3 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Assesment: [**Age over 90 **] y/o man w/MMM admitted with hemoptysis, now transferred
   to CCU for further care of heart failure and hypertension prior to
   discharge to home with hospice in AM.
   .
   # CHF:  Patient volume overloaded and likely contributing to poor
   respiratory status.  Patient started on lasix gtt yesterday.  Patient
   had good UOP at 120-200 cc/hr.
   - Continue lastix gtt.  Switch to IV on discharge.
   # HTN: Goal SBP 120-160.  Controlled on nitro gtt.  Pt intermittently
   refusing oral medications.
   -Will restart home meds this AM and wean nitro gtt.
   -will be discharged on anti-hypertensives
   .
   # Hemoptysis:   No further work-up per patient
s request.
   - Continue Morphine SL prn for dyspnea.
   - Continue Levaquin for E-coli pneumonia.
   .
   # DIsp: home with hospice. .
   # Code: DNR/DNI